US06022379
The same procedure as in Example 7 was followed by stirring 10 millimol of 1,4-naphthoquinone with 2.5 millimol of N-hexadecylpyrrole in 40 ml of acetic acid at 50° C. for 5 hours. The 1-hexadecyl-2,5-bis(1,4-naphthoquinon-2-yl)pyrrole was thus obtained in a yield of 38% after chromatography on a column of silica.

reactant | 1,4-naphthoquinone | 10 millimol | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | N-hexadecylpyrrole | 2.5 millimol | C(CCCCCCCCCCCCCCC)N1C=CC=C1 | C20H37N
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 1-hexadecyl-2,5-bis(1,4-naphthoquinon-2-yl)pyrrole | yield of 38% | C(CCCCCCCCCCCCCCC)N1C(=CC=C1C=1C(C2=CC=CC=C2C(C1)=O)=O)C=1C(C2=CC=CC=C2C(C1)=O)=O | C40H45NO4
